US06956129B2
The procedure was as in Example 5, but the 2,4-difluorocinnamic acid obtained was not isolated. The aqueous-acidic product suspension obtained was rendered alkaline using sodium hydroxide solution and treated with 2 g of Pd/C (5% strength) at 50° C. with further stirring and heated to 100° C. It was then pressurized to 5 bar of hydrogen. After constant pressure had been achieved, it was cooled to room temperature, the pressure was released and the palladium catalyst was filtered off. The alkaline product solution was acidified with sulfuric acid and the product precipitate was isolated by filtration. After drying in vacuo, 95.0 g of 3-(2,4-difluorophenyl)propionic acid (85% of theory) were obtained.

reactant | 2,4-difluorocinnamic acid | FC1=C(C=CC(=O)O)C=CC(=C1)F | C9H6F2O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 2 g | [Pd] | Pd
product | 3-(2,4-difluorophenyl)propionic acid | 95.0 g, 85% | FC1=C(C=CC(=C1)F)CCC(=O)O | C9H8F2O2
